US08357721B2
c) {4-[2-(Cyclopropylmethoxy)ethyl]phenyl}methanol
To a solution under nitrogen of 410 mg (1.9 mmol) of the compound prepared in Example 1b, in 100 ml of THF, are added 1.024 ml (2 mmol) of BH3.Me2S (2 M solution in toluene). After stirring for two hours at room temperature, 39.5 ml of water, 89.5 ml of toluene and 283 mg (1.1 equivalents) of K2CO3 dissolved in 39.5 ml of water are added. After separation of the phases by settling, the organic phase is recovered and the aqueous phase is extracted with 80 ml of toluene. The combined organic phases are washed with water, dried over Na2SO4 and concentrated under vacuum to give 299 mg of a yellow oil. This oil is taken up in 35 ml of methanol and stirred for one hour at room temperature.

reactant | Me2S | 2 M | S(C)C | C2H6S
reactant | toluene | 89.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | K2CO3 | 283 mg, 1.1 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 39.5 ml | O | H2O
solvent | water | 39.5 ml | O | H2O
product | {4-[2-(Cyclopropylmethoxy)ethyl]phenyl}methanol | 299 mg, Yield: 67.0% | C1(CC1)COCCC1=CC=C(C=C1)CO | C13H18O2
